US06590127B1
Interestingly, the interaction between DDQ and 2,4,5-trimethoxyphenylpropane largely depends upon time, temperature solvent and amount of reagent (DDQ). In polar anhydrous solvents namely alcohols such as methanol, ethanol, propanol and the like; ether such as tetrahydrofuran, dioxane and the like; chlorinated solvents such as dichloromethane, chloroform and the like, the reaction between 2,4,5-trimethoxyphenylpropane and varying amount of DDQ, preferably ranging from 1.0 to 1.1 moles, furnishes the corresponding dehydrogenated product i.e. α-asarone and unreacted starting material alongwith yellow coloured polar compound as a side product while 2,4,5-trimethoxyphenylpropane and varying amount of DDQ, preferably ranging from 1.1 to 1.3 moles in the same solvent, furnishes α-asarone as well as above yellow coloured compound but without any starting material (Example II). Addition of a catalytic amount of a solid support such as celite, silica gel, alumina, resin and the like dramatically accelerates the rate of dehydrogenation and increases the yield of α-asarone (Example III) as the concept of utilizing reagents adsorbed on inert supports for organic synthesis has also been recently employed by several chemists (Posner, G. H. and Rogers, D. Z., J. Am. Chem. Soc. 99, 8208 (1997); Jr. Filippo, J. S. and Chern, C. I., J. Org. Chem. 42, 2182 (1979)). Formation of side products are not surprising with oxidants like DDQ and many others such as PCC, MnO2, KMnO4, Cr(VI) etc. (Muzart, J. Tetrahedron Letters 28 (40) 4665-4668 (1987)). Initially, the side product (i.e. yellow band) was left several times inside the column (during column chromatography) considering it as unreacted DDQ since DDQ is itself a yellow coloured reagent, however, unsatisfactory yield of trans-asarone, induced us to separate each band and subsequently, to characterize them in details. Finally, the melting point of yellow solid (139-140° C.) ruled out the possibilities of DDQ (209-214° C.) and thereafter, we successfully characterized it as 2,4,5-trimethoxycinnamaldehyde on the basis of spectral data. The yellow solid showed IR absorption band at 1648 (conjugated C═O) cm−1 and also gave a positive 2,4-DNP test, thus, confirming the presence of carbonyl group. The aldehydic nature of the carbonyl function was indicated by the Tollen's test. 1H NMR of yellow solid showed the 14 number of protons (Example II) which is less by two number of protons in comparison to Pasarone (Patra, A. and Mitra, A. K., Phytochemistry, 44, 668-669, (1981)) except for a doublet at δ 9.65 (1H, d, J=7.8 Hz) which could be assigned to an aldehyde proton coupled with an olefinic proton appearing as a doublet at δ 6.64 (1H, dd, J=15.8 Hz, J=7.8 Hz). This second proton formed a typical large coupling constant with the other olefinic proton δ 7.81 (1H, d, J=15.8 Hz) and also a kind of the large value of J is indicative of trans-stereochemistry. Further, the position of two aromatic singlet protons and three singlet for nine protons from trimethoxy groups are more or less at same δ value as starting material, however, appearance of three protons at δ 9.65 (1H, d), 7.81 (1H, d) and 6.64 (1H, dd,) finally supported the possibility of unsaturated aldehyde group (—CH═CH—CHO) attached to trimethoxy substituted phenyl ring. Similarly, the 13C NMR of the yellow solid (appeared at δ 194.1, 154.1, 153.2, 147.6, 143.3, 126.4, 114.5, 110.5, 96.5, 56.4, 56.2, 56.0)) clearly indicated the presence of 12 carbons which is similar to the 12 carbons of β-asarone except the position of side propyl group which appeared at δ 194.1 (C-3′), 154.1 (C-1′) and 126.4 (C-2′) is possible due to (—CH═CH—CHO) group. The EI mass spectrum of yellow solid showed a clear [M]+ peak at m/z 222. This together with above 1H, 13C and IR data, the yellow solid was finally confirmed to be 2,4,5-trimethoxycinnamaldehyde as trans isomer which is later on discovered as naturally occurring rarer phenylpropanoid (Kulkami, M. M.; Sohoni, J.; Rojatkar, S. R. and Nagasampagi, B. A., Indian J Chem, 25B, 981 (1986)). It is also worthwhile to mention that the formation of trans-2,4,5-trimethoxycinnamaldehyde in a single step from phenylalkane i.e. 2,4,5-trimethoxypropanre opens new route for the synthesis of cinnamaldehyde derivatives and we have recently extended this finding towards development of a series of substituted cinnamaldehyde derivatives exclusively (Sinha, A. K., Joshi, B. P. and Dogra, R. U.S. patent applicaion Ser. No. 09/805,832 filed on Mar. 14, 2001 and Sinha, A. K., Joshi, B. P. and Dogra, R. PCT Patent No. IN 01/00104 filed on May 21, 2001), which is, in fact, a mild and simpler, than hitherto reported synthetic methods (U.S. Pat. No. 2,529,186, Nov. 7, 1950; Friedrich and Hartmann, Chem. Ber., 94, 838 (1961); Ger. Pat. 1,114,798, Oct. 12, 1961; U.S. Pat. No. 3,028,419, Apr. 3, 1962; Deuchert, S. K., Hertenstein, U. and Hunig, S., Synthesis, 777 (1973); El-Feraly, F. S. and Hoffstetter, M. D., J. Nat. Prod. 43, 407 (1980); Rajasekhar, D. and Subbaraju, G. V., Indian. J. Chem., 38, 837-838 (1999)). To the best of our knowledge, such two step hydrogenation of widely available allyl/ and/or propenyl phenyl into phenylpropane and then, dehydrogenation of phenylpropane into trans-phenylpropene derivative (α-asarone), has not been reported earlier, although alkaline isomerisation of allylphenyl always is well documented to provide trans-isomer but always with varying amount of toxic cis-isomer (β-asarone). Although above method provides α-asarone in 72% yield (Example II) but our main objective was still to increase the percentage of α-asarone and to subside or reduce the yield of abnormal formation of 2,4,5-trimethoxycinnamaldehyde during dehydrogenation/oxidation of 2,4,5-trimethoxyphenylpropane.

reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | 2,4,5-trimethoxyphenylpropane | COC1=C(C=C(C(=C1)OC)OC)CCC | C12H18O3
reactant | methanol | CO | CH4O
reactant | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | propanol | C(CC)O | C3H8O
product | α-asarone | C\C=C\C1=C(OC)C=C(OC)C(OC)=C1 | C12H16O3
